US04684651
To N-(3-chloropropionyl)-3,4-methylenedioxyaniline (2.0 g) dissolved in N,N-dimethylformamide (20 ml) were added N-phenylpiperazine (1.6 g) and triethylamine (3 ml) and the mixture was stirred at 80° C. for 20 hours in a nitrogen atmosphere. The reaction mixture was evaporated in vacuo and to the residue were added ethyl acetate and 2N sodium hydroxide solution. After the aqueous layer was removed, the ethyl acetate layer was washed twice with water and dried over anhydrous sodium sulfate. The ethyl acetate was then distilled off and the residual solid was recrystallized from ethanol to give N-[3-(4-phenyl-1-piperazinyl)propionyl]-3,4-methylenedioxyaniline (3.4 g, 90% yield).

reactant | N-(3-chloropropionyl)-3,4-methylenedioxyaniline | 2.0 g | ClCCC(=O)NC1=CC2=C(C=C1)OCO2 | C10H10ClNO3
reactant | N-phenylpiperazine | 1.6 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[3-(4-phenyl-1-piperazinyl)propionyl]-3,4-methylenedioxyaniline | 3.4 g, 90% yield | C1(=CC=CC=C1)N1CCN(CC1)CCC(=O)NC1=CC2=C(C=C1)OCO2 | C20H23N3O3
